US09415027B2
Potassium carbonate (15 mg, 0.11 mmol) was added to a solution of methyl 7-methoxy-1-oxo-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-indene-2-carboxylate (26 mg, 0.07 mmol) in acetone (1.0 mL). Methyl 4-(bromomethyl)benzoate (32 mg, 0.14 mmol) was added and the mixture was stirred at room temperature. After 4 d, the reaction mixture was diluted with water (10 mL) and extracted with EtOAc (3×20 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by combiflash (4 g column, hexanes→EtOAc, gradient) to afford 36 mg (98%) of methyl 7-methoxy-2-(4-(methoxycarbonyl)benzyl)-1-oxo-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-indene-2-carboxylate.

reactant | Potassium carbonate | 0.11 mmol, 15 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 7-methoxy-1-oxo-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-indene-2-carboxylate | 0.07 mmol, 26 mg | COC=1C=CC(=C2CC(C(C12)=O)C(=O)OC)C1=CC(=CC=C1)C(F)(F)F | C19H15F3O4
reactant | Methyl 4-(bromomethyl)benzoate | 0.14 mmol, 32 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | acetone | 1.0 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | methyl 7-methoxy-2-(4-(methoxycarbonyl)benzyl)-1-oxo-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-indene-2-carboxylate | 36 mg, 98% | COC=1C=CC(=C2CC(C(C12)=O)(C(=O)OC)CC1=CC=C(C=C1)C(=O)OC)C1=CC(=CC=C1)C(F)(F)F | C28H23F3O6
